US06080743
2.05 g (7.36 mmol) of 3-(7-chloro-2,3-dimethoxy-quinoxalin-5-yl)-prop-2-yn-1-ol are hydrogenated at normal pressure in 20 ml of tetrahydrofuran with approximately 0.4 g of Raney nickel until twice the molar amount of hydrogen has been absorbed. The hydrogenated mixture is filtered with suction over a glass fiber filter and the filtrate is concentrated. 2.04 g (98%) of 3-(7-chloro-2,3-dimethoxy-quinoxalin-5-yl)-propan-1-ol are obtained in the form of beige crystals having a melting point of 104-105° C.

reactant | 3-(7-chloro-2,3-dimethoxy-quinoxalin-5-yl)-prop-2-yn-1-ol | 7.36 mmol, 2.05 g | ClC1=CC(=C2N=C(C(=NC2=C1)OC)OC)C#CCO | C13H11ClN2O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | approximately 0.4 g | [Ni] | Ni
product | 3-(7-chloro-2,3-dimethoxy-quinoxalin-5-yl)-propan-1-ol | 2.04 g, 98% | ClC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CCCO | C13H15ClN2O3
